US08420655B2
To a solution of 2-bromo-5-methoxybenzaldehyde (200 mg, 0.93 mmol) in DMF (10 mL) and H2O (2 mL) are added 2,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-thiazole (333 mg, 1.4 mmol), Pd(PPh3)4 (107 mg, 0.09 mmol) and K2CO3 (257 mg, 1.9 mmol) at room temperature. The solution is heated to 120° C. for 1 hour in a microwave reactor. The solution is cooled down and 3-mercaptopropyl-functionalized silica gel (500 mg) is added. The solution is stirred for 15 minutes and is filtered. The filtrate is washed with H2O (10 mL) and is extracted with EtOAc (3×10 mL). The combined organic layer is dried, (MgSO4), filtered and is concentrated and the residue is purified by silica gel flash chromatography eluting with 50% EtOAc in heptane to afford 2-(2,4-Dimethyl-thiazol-5-yl)-5-methoxy-benzaldehyde (150 mg, 65%) as a white foam.

reactant | 2-bromo-5-methoxybenzaldehyde | 0.93 mmol, 200 mg | BrC1=C(C=O)C=C(C=C1)OC | C8H7BrO2
reactant | 2,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3-thiazole | 1.4 mmol, 333 mg | CC=1SC(=C(N1)C)B1OC(C(O1)(C)C)(C)C | C11H18BNO2S
reactant | K2CO3 | 1.9 mmol, 257 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.09 mmol, 107 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2,4-Dimethyl-thiazol-5-yl)-5-methoxy-benzaldehyde | 150 mg, 65% | CC=1SC(=C(N1)C)C1=C(C=O)C=C(C=C1)OC | C13H13NO2S
